US05438046
Alternatively, by working in a way similar to that above reported and by using N-tert-butoxycarbonyl-L-phenylalanine (10 g; 37.7 mmoles), N-hydroxysuccinimide (4.78 g; 41.5 mmoles), dicyclohexylcarbodiimide (8.56 g; 41.5 mmoles) and ethyl (2-amino-4-thiazolyl)acetate (7 g; 37.7 mmoles), a crude was obtained which, chromatographed on silica gel (eluent ligroin:ethyl acetate 6:4) and further crystallized from ligroin, afforded N-(4-ethoxycarbonylmethyl-2-thiazolyl)-3-phenyl-2-(tert-butoxycarbonyl)amino-propanamide (13.74 g; 84.14% yield).

reactant | N-tert-butoxycarbonyl-L-phenylalanine | 37.7 mmoles, 10 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | N-hydroxysuccinimide | 41.5 mmoles, 4.78 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 41.5 mmoles, 8.56 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethyl (2-amino-4-thiazolyl)acetate | 37.7 mmoles, 7 g | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
product | N-(4-ethoxycarbonylmethyl-2-thiazolyl)-3-phenyl-2-(tert-butoxycarbonyl)amino-propanamide | 13.74 g, 84.14% yield | C(C)OC(=O)CC=1N=C(SC1)NC(C(CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C21H27N3O5S
